US03984413
27.0 g (0.1 mol) 7-(2,3-dihydroxypropyl)-theophylline and 18.6 g (0.1 mol) p-chlorophenoxyacetic acid were heated in 100 ml xylene for 8 hours in a water separator with the addition of 0.9 g p-toluenesulfonic acid. After cooling down, the xylene was decanted and the residue dissolved in hot isopropanol. After addition of a little water the monoester crystallized out slowly. The yield was 33.4 g (79% yield) of 1-(7-theophyllinyl)-2-hydroxy-3-propyl (p-chlorophenoxyacetate) with a melting point of 81°-83°C.

reactant | 7-(2,3-dihydroxypropyl)-theophylline | 0.1 mol, 27.0 g | OC(CN1C=NC=2N(C(N(C)C(C12)=O)=O)C)CO | C10H14N4O4
reactant | p-chlorophenoxyacetic acid | 0.1 mol, 18.6 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | water | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | p-toluenesulfonic acid | 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(7-theophyllinyl)-2-hydroxy-3-propyl (p-chlorophenoxyacetate) | yield was 33.4 g, 79% yield | ClC1=CC=C(OCC(=O)OCC(CN2C=NC=3N(C(N(C)C(C23)=O)=O)C)O)C=C1 | C18H19ClN4O6
